US03948939
A. 9-Benzoyl-6-methoxy-1,2,3,4-tetrahydrocarbazole-4-carboxylic acid
A solution of 6.7 g. of benzyl 9-benzoyl-6-methoxy-1,2,3,4-tetrahydrocarbazole-4-carboxylate in 250 ml. of ethyl acetate was hydrogenated over 1 g. of palladium-on-charcoal until the required amount of hydrogen had reacted. The mixture was filtered and the filtrate was evaporated to dryness under reduced pressure. The residue was slurried in ether and the resulting solid was collected by filtration to give 1.8 g. of the title compound; m.p. 157-159°C.

reactant | benzyl 9-benzoyl-6-methoxy-1,2,3,4-tetrahydrocarbazole-4-carboxylate | C(C1=CC=CC=C1)(=O)N1C2=CC=C(C=C2C=2C(CCCC12)C(=O)OCC1=CC=CC=C1)OC | C28H25NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-Benzoyl-6-methoxy-1,2,3,4-tetrahydrocarbazole-4-carboxylic acid | C(C1=CC=CC=C1)(=O)N1C2=CC=C(C=C2C=2C(CCCC12)C(=O)O)OC | C21H19NO4
